US04631081
3-Cyano-2,4,6-trimethylpyridine was prepared from 3-aminocrotonitrile and acetylacetone following the procedure of Kato and Noda (Chem. Pharm. Bull. 24, 303, 1976).

reactant | 3-aminocrotonitrile | C/C(=C\C#N)/N | C4H6N2
reactant | acetylacetone | C(C)(=O)CC(C)=O | C5H8O2
product | 3-Cyano-2,4,6-trimethylpyridine | C(#N)C=1C(=NC(=CC1C)C)C | C9H10N2
